US05705517
2-Propoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A solution of ethyl 2-propoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.23 g) in ethanol (4 ml) containing 1N-NaOH (1.5 ml) was heated at 80° C. for 2 hours. The reaction mixture was concentrated to dryness and the residue was extracted with water and ethyl acetate. The aqueous layer was adjusted to pH 3-4 with 1N-HCl to give crystals. Recrystallization from ethyl acetate-methanol afforded colorless crystals (0.15 g, 69%), m.p. 174°-175° C.

reactant | ethyl 2-propoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.23 g | C(CC)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O3
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-Propoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | C(CC)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C25H22N6O3
